US07468368B2
A) 5-(4-Benzyl-1-piperazinyl)-4-chloro-3(2H)-pyridazinone
A mixture of 7 g of 1-benzylpiperazine, 6.55 g of 4,5-dichloro-3(2H)-pyridazinone and 11 g of K2CO3 in 150 ml of DMF is heated at 110° C. for 4 hours and then concentrated under vacuum. The residue is chromatographed on silica gel, eluting with a DCM/MeOH (95/5; v/v) mixture. The product obtained is taken up in iso ether and triturated and the precipitate formed is isolated with suction. This gives 7 g of the expected product, which is recrystallized from iso ether; m.p.=173-175° C.

reactant | 1-benzylpiperazine | 7 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 4,5-dichloro-3(2H)-pyridazinone | 6.55 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | K2CO3 | 11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-(4-Benzyl-1-piperazinyl)-4-chloro-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C(NN=C1)=O)Cl | C15H17ClN4O
